US08293513B2
To an ice bath cooled solution of 6-(5-dimethylaminonaphthalene-1-sulfonamido)hexanoic acid (0.53 g, 1.45 mmol) in THF (25 mL) was added 1-hydroxybenzotriazole (HOBt, 0.24 g, 1.75 mmol), 4-dimethylamino pyridine (DMAP, 0.21 g, 1.75 mmol), and dicyclohexylcarbodiimide (DCC, 0.40 g, 1.93 mmol), followed by O-benzylhydroxylamine (0.22 g, 1.75 mmol). The mixture was stirred at room temperature for 48 h. Water (15 mL) was added to the mixture and stirred at room temperature for 10 minutes. The precipitate was filtered off, and the filtrate was extracted with ethyl acetate (3×15 mL). The organic layer was washed with water and brine, dried over Na2SO4. The solvent was evaporated and the residue was purified by flash chromatography using CH2Cl2-MeOH to afford N-(benzyloxy)-5-(5-(dimethylamino)naphthalene-1-sulfonamido)hexanamide as green sticky oil (0.64 g, 94%). 1H NMR (CDCl3, 400 MHz) δ 9.04 (br, 1H), 8.47 (d, 1H, J=8.4 Hz), 8.29 (d, 1H, J=8.4 Hz), 8.17 (dd, 1H, J=0.8, 1.2 Hz), 7.47 (m, 2H), 7.27 (m, 5H), 7.12 (d, 1H, J=7.6 Hz), 5.40 (br, 1H), 4.81 (s 2H), 2.82 (s, 6H), 2.79 (m, 2H), 1.83 (m, 2H), 1.33 (m, 4H), 1.09 (m, 2H); 13C NMR (100 MHz) δ 170.90, 157.35, 151.96, 135.02, 130.39, 129.93, 129.72, 129.50, 129.22, 128.64, 128.56, 128.45, 123.31, 119.00, 115.31, 78.13, 45.49, 43.02, 33.92, 29.13, 25.69, 25.04.

reactant | 6-(5-dimethylaminonaphthalene-1-sulfonamido)hexanoic acid | 1.45 mmol, 0.53 g | CN(C1=C2C=CC=C(C2=CC=C1)S(=O)(=O)NCCCCCC(=O)O)C | C18H24N2O4S
reactant | 1-hydroxybenzotriazole | 1.75 mmol, 0.24 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dicyclohexylcarbodiimide | 1.93 mmol, 0.40 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | O-benzylhydroxylamine | 1.75 mmol, 0.22 g | C(C1=CC=CC=C1)ON | C7H9NO
solvent | THF | 25 mL | C1CCOC1 | C4H8O
catalyst | 4-dimethylamino pyridine | 1.75 mmol, 0.21 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | Water | 15 mL | O | H2O
product | N-(benzyloxy)-5-(5-(dimethylamino)naphthalene-1-sulfonamido)hexanamide | 0.64 g, 94% | C(C1=CC=CC=C1)ONC(CCCC(C)NS(=O)(=O)C1=CC=CC2=C(C=CC=C12)N(C)C)=O | C25H31N3O4S
